US07605171B2
Step A: 2-(4-Bromo-2-methylphenyl)-4,5-dihydro-1,3-oxazole
Oxalyl chloride (5 mL) was added to a solution of 4-bromo-2-methylbenzoic acid (1.1 g, 4.72 mmol) in methylene chloride (20 mL) and DMF (2 drops) and stirred at rt for 1 h. The reaction mixture was concentrated and dried. 2-Bromoethylamine hydrobromide (0.88 g, 4.29 mmol) was dissolved in benzene (20 mL) and triethylamine (3.01 mL; 21.45 mmol) was added. The acid chloride was slowly added to the reaction mixture which was stirred vigorously at 90° C. for 18 h. The reaction mixture was poured into 50 mL of water and the product was extracted with methylene chloride (2×200 mL). The combined organics were dried over magnesium sulfate, filtered and concentrated in vacuo. Silica gel chromatography eluting with 10% ethyl acetate/hexanes, then 15% ethyl acetate/hexanes yielded 0.33 g of the desired product: 1H NMR (500 MHz, CDCl3) δ 7.71 (d, J=8.3 Hz, 1H), 7.43 (s, 1H), 7.39 (d, J=8.4 Hz, 1H), 4.41 (t, J=9.5 Hz, 2H), 4.11 (t, J=9.6 Hz, 2H), 2.60 (s, 3H).

reactant | Oxalyl chloride | 5 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 4-bromo-2-methylbenzoic acid | 4.72 mmol, 1.1 g | BrC1=CC(=C(C(=O)O)C=C1)C | C8H7BrO2
reactant | 2-Bromoethylamine hydrobromide | 4.29 mmol, 0.88 g | Br.BrCCN
reactant | triethylamine | 21.45 mmol, 3.01 mL | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
catalyst | DMF | 2 drops | CN(C)C=O | C3H7NO
solvent | benzene | 20 mL | C1=CC=CC=C1 | C6H6
solvent | water | 50 mL | O | H2O
product | 2-(4-Bromo-2-methylphenyl)-4,5-dihydro-1,3-oxazole | 0.33 g | BrC1=CC(=C(C=C1)C=1OCCN1)C | C10H10BrNO
